US08017779B2
A mixture of 7-bromo-4-chloro-3-nitro[1,5]naphthyridine (92.5 g, 321 mmol) and dichloromethane (1.5 L) was cooled to 10° C. 1-Amino-2-methylpropan-2-ol (63.01 g, 707 mmol) was added dropwise over a period of 30 minutes; during the addition, the reaction temperature did not rise above 13° C. The reaction mixture was allowed to slowly warm to room temperature and stirred overnight. The solvent was removed under reduced pressure, and the solid residue was mixed with water (200 mL). The solid was isolated by filtration, washed with water (2×200 mL), and dried in a vacuum oven overnight at 35° C. to provide 1-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol.

reactant | 7-bromo-4-chloro-3-nitro[1,5]naphthyridine | 321 mmol, 92.5 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C8H3BrClN3O2
reactant | 1-Amino-2-methylpropan-2-ol | 707 mmol, 63.01 g | NCC(C)(O)C | C4H11NO
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
product | 1-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(O)C | C12H13BrN4O3
